US06713499B2
To a stirred solution of 5.00 g (17.7 mmol) (4-methoxy-7-nitro-benzothiazol-2-yl)-carbamic acid methyl ester in 140 ml methanol and 140 ml dichloromethane was added 1.5 g platinum (IV) oxide and the mixture was then stirred for 16 hours at room temperature under an atmosphere of hydrogen. The mixture was then filtered and the filtrate concentrated in vacuo to afford 4.03 g (90%) (7-amino-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester as a grey crystalline solid. ES-MS m/e (%):276 (M+Na+, 28), 254 (M+H+, 100).

reactant | (4-methoxy-7-nitro-benzothiazol-2-yl)-carbamic acid methyl ester | 17.7 mmol, 5.00 g | COC(NC=1SC2=C(N1)C(=CC=C2[N+](=O)[O-])OC)=O | C10H9N3O5S
solvent | methanol | 140 ml | CO | CH4O
solvent | dichloromethane | 140 ml | ClCCl | CH2Cl2
catalyst | platinum (IV) oxide | 1.5 g | [Pt](=O)=O
product | (7-amino-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | 4.03 g, 90% | COC(NC=1SC2=C(N1)C(=CC=C2N)OC)=O | C10H11N3O3S
